US07544812B2
2-{4-[3-(1-Biphenyl-4-ylmethyl-3-methyl-2-oxo-imidazolidin-4-yl)-propyl]-2-butyl-phenoxy}-2-methyl-propionic acid
The titled compound was prepared using 2-(2-Butyl-4-{3-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-propyl}-phenoxy)-2-methyl-propionic acid ethyl ester (0.049 g, 0.120 mmole) and 4-phenyl benzyl bromide (0.029 g, 0.144 mmole) to produce an oil (0.042 g, 65%). Mass [EI+] 543 (M+H)+, [EI−] 541 (M−H)−.

reactant | 2-(2-Butyl-4-{3-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-propyl}-phenoxy)-2-methyl-propionic acid ethyl ester | 0.120 mmole, 0.049 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)CCCC1N(C(N(C1)CC1=CC=C(C=C1)C(F)(F)F)=O)C)CCCC)=O | C31H41F3N2O4
reactant | 4-phenyl benzyl bromide | 0.144 mmole, 0.029 g | C1(=CC=CC=C1)C1=CC=C(CBr)C=C1 | C13H11Br
product | 2-{4-[3-(1-Biphenyl-4-ylmethyl-3-methyl-2-oxo-imidazolidin-4-yl)-propyl]-2-butyl-phenoxy}-2-methyl-propionic acid | C1(=CC=C(C=C1)CN1C(N(C(C1)CCCC1=CC(=C(OC(C(=O)O)(C)C)C=C1)CCCC)C)=O)C1=CC=CC=C1 | C34H42N2O4
